* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.0003221723535132745
Fd1_1 0 s1 V1 0.016108617675663725
Gr1_1_1 0 s1 x1_a1 0 1080016422167.091
Gr2_1_1 0 s1 x2_a1 0 -1079001302302.6768
Gr3_1_1 0 s1 x3_a1 0 182626011032.01727
Gr4_1_1 0 s1 x4_a1 0 -193641596707.16098
Gr5_1_1 0 s1 x5_a1 0 -98786702681.79295
Gr6_1_1 0 s1 x6_a1 0 68267014674.5962
Gr7_1_1 0 s1 x7_a1 0 -587039378718.6511
Gr8_1_1 0 s1 x8_a1 0 353544738874.8722
Gr9_1_1 0 s1 x9_a1 0 2880568015680.9434
Gr10_1_1 0 s1 x10_a1 0 -4026156650696.698
Gr11_re_1_1 0 s1 x11_re_a1 0 437255993888.5386
Gr11_im_1_1 0 s1 x11_im_a1 0 251955541075.10953
Gr12_re_1_1 0 s1 x12_re_a1 0 92633955054.90161
Gr12_im_1_1 0 s1 x12_im_a1 0 -14832997703.30441
Gr13_re_1_1 0 s1 x13_re_a1 0 7730825050.780246
Gr13_im_1_1 0 s1 x13_im_a1 0 -4043104454.4279323
Gr14_re_1_1 0 s1 x14_re_a1 0 23957251.96012738
Gr14_im_1_1 0 s1 x14_im_a1 0 -122740355.78555241
Gr15_re_1_1 0 s1 x15_re_a1 0 -7599734495.885528
Gr15_im_1_1 0 s1 x15_im_a1 0 -32576984300.74607
Gr16_re_1_1 0 s1 x16_re_a1 0 -2743967186.714026
Gr16_im_1_1 0 s1 x16_im_a1 0 -2914789150.2066965
Gr17_re_1_1 0 s1 x17_re_a1 0 1343.874106242953
Gr17_im_1_1 0 s1 x17_im_a1 0 -3650.4543883971587
Gr18_re_1_1 0 s1 x18_re_a1 0 13406661085.528244
Gr18_im_1_1 0 s1 x18_im_a1 0 -71679411215.5176
Gr19_re_1_1 0 s1 x19_re_a1 0 128726313649.20535
Gr19_im_1_1 0 s1 x19_im_a1 0 -54939864881.61592
Gr20_1_1 0 s1 x20_a1 0 67508076539.94364
Gr21_re_1_1 0 s1 x21_re_a1 0 239342165.68899605
Gr21_im_1_1 0 s1 x21_im_a1 0 210661967.60046592
Gr22_re_1_1 0 s1 x22_re_a1 0 -29056440.244077265
Gr22_im_1_1 0 s1 x22_im_a1 0 22997271.26408575
Gr23_re_1_1 0 s1 x23_re_a1 0 -4845294.410041554
Gr23_im_1_1 0 s1 x23_im_a1 0 1270989.1499256701
Gr24_1_1 0 s1 x24_a1 0 -3026328.4652060317
Gd1_2 0 s1 p2 0 0.0013765385095335881
Fd1_2 0 s1 V2 0.06882692547667942
Gr1_1_2 0 s1 x1_a2 0 5676073022339.672
Gr2_1_2 0 s1 x2_a2 0 -5648964363251.065
Gr3_1_2 0 s1 x3_a2 0 1679980401465.4368
Gr4_1_2 0 s1 x4_a2 0 -1691072444940.6726
Gr5_1_2 0 s1 x5_a2 0 307881877219.4998
Gr6_1_2 0 s1 x6_a2 0 -420903969314.9622
Gr7_1_2 0 s1 x7_a2 0 -3018096375349.471
Gr8_1_2 0 s1 x8_a2 0 1478729406090.6855
Gr9_1_2 0 s1 x9_a2 0 22712414751050.695
Gr10_1_2 0 s1 x10_a2 0 -34969647724055.89
Gr11_re_1_2 0 s1 x11_re_a2 0 3643301462643.852
Gr11_im_1_2 0 s1 x11_im_a2 0 3284210323274.0645
Gr12_re_1_2 0 s1 x12_re_a2 0 1037071292148.527
Gr12_im_1_2 0 s1 x12_im_a2 0 126462928251.41422
Gr13_re_1_2 0 s1 x13_re_a2 0 107104884078.90666
Gr13_im_1_2 0 s1 x13_im_a2 0 -18024202250.49857
Gr14_re_1_2 0 s1 x14_re_a2 0 933316689.7565963
Gr14_im_1_2 0 s1 x14_im_a2 0 -1551972338.2505815
Gr15_re_1_2 0 s1 x15_re_a2 0 1409639828.7150493
Gr15_im_1_2 0 s1 x15_im_a2 0 -399884227874.0202
Gr16_re_1_2 0 s1 x16_re_a2 0 -23163895717.447174
Gr16_im_1_2 0 s1 x16_im_a2 0 -45577257701.98245
Gr17_re_1_2 0 s1 x17_re_a2 0 24594.003300636647
Gr17_im_1_2 0 s1 x17_im_a2 0 -47308.19480549725
Gr18_re_1_2 0 s1 x18_re_a2 0 290707355706.555
Gr18_im_1_2 0 s1 x18_im_a2 0 -786489975546.0712
Gr19_re_1_2 0 s1 x19_re_a2 0 1467717378258.845
Gr19_im_1_2 0 s1 x19_im_a2 0 -506483070760.99316
Gr20_1_2 0 s1 x20_a2 0 774813379610.7681
Gr21_re_1_2 0 s1 x21_re_a2 0 2784321875.0846157
Gr21_im_1_2 0 s1 x21_im_a2 0 2659446792.5746694
Gr22_re_1_2 0 s1 x22_re_a2 0 -359584927.3814088
Gr22_im_1_2 0 s1 x22_im_a2 0 284772338.8585292
Gr23_re_1_2 0 s1 x23_re_a2 0 -56834669.510824874
Gr23_im_1_2 0 s1 x23_im_a2 0 18336263.834806625
Gr24_1_2 0 s1 x24_a2 0 -32316172.77550477
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 6.747520576546205e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 6.609994891638789e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.3140246245030536e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.1869536771135577e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 6.548404065633829e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 5.892437600413135e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.8047454149768445e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.4672985515026958e-11
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.669063242047821e-11
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 4.703307402927022e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 7.117006828086341e-11
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 11946611017.674057
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -11946611017.674057
Rp11_im_im_a1 0 x11_im_a1 7.117006828086341e-11
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 1.4754533473994075e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 14238591436.876387
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -14238591436.876387
Rp12_im_im_a1 0 x12_im_a1 1.4754533473994075e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 3.8856316688028864e-10
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 14469501012.60281
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -14469501012.60281
Rp13_im_im_a1 0 x13_im_a1 3.8856316688028864e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 6.947705482669779e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 14108577268.860634
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -14108577268.860634
Rp14_im_im_a1 0 x14_im_a1 6.947705482669779e-09
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 2.3760560962553617e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 12083657492.00261
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -12083657492.00261
Rp15_im_im_a1 0 x15_im_a1 2.3760560962553617e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 5.088540713072077e-10
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 13569191644.069426
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -13569191644.069426
Rp16_im_im_a1 0 x16_im_a1 5.088540713072077e-10
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 7.99231460426701e-07
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 12579369379.54573
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -12579369379.54573
Rp17_im_im_a1 0 x17_im_a1 7.99231460426701e-07
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 1.7054796054686886e-10
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 9132673988.045652
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -9132673988.045652
Rp18_im_im_a1 0 x18_im_a1 1.7054796054686886e-10
Cx19_re_a1 x19_re_a1 0 1.0
Gx19_re_a1 0 x19_re_a1 p1 0 0.1414213562373095
Fx19_re_a1 0 x19_re_a1 V1 7.0710678118654755
Rp19_re_re_a1 0 x19_re_a1 1.4650378161915236e-10
Gp19_re_im_a1 0 x19_re_a1 x19_im_a1 0 4435567057.310095
Cx19_im_a1 x19_im_a1 0 1.0
Gp19_im_re_a1 0 x19_im_a1 x19_re_a1 0 -4435567057.310095
Rp19_im_im_a1 0 x19_im_a1 1.4650378161915236e-10
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 1.8316423638930915e-10
Cx21_re_a1 x21_re_a1 0 1.0
Gx21_re_a1 0 x21_re_a1 p1 0 0.1414213562373095
Fx21_re_a1 0 x21_re_a1 V1 7.0710678118654755
Rp21_re_re_a1 0 x21_re_a1 4.816086968238468e-10
Gp21_re_im_a1 0 x21_re_a1 x21_im_a1 0 2459757582.687943
Cx21_im_a1 x21_im_a1 0 1.0
Gp21_im_re_a1 0 x21_im_a1 x21_re_a1 0 -2459757582.687943
Rp21_im_im_a1 0 x21_im_a1 4.816086968238468e-10
Cx22_re_a1 x22_re_a1 0 1.0
Gx22_re_a1 0 x22_re_a1 p1 0 0.1414213562373095
Fx22_re_a1 0 x22_re_a1 V1 7.0710678118654755
Rp22_re_re_a1 0 x22_re_a1 1.1007493212139699e-09
Gp22_re_im_a1 0 x22_re_a1 x22_im_a1 0 997498705.2901851
Cx22_im_a1 x22_im_a1 0 1.0
Gp22_im_re_a1 0 x22_im_a1 x22_re_a1 0 -997498705.2901851
Rp22_im_im_a1 0 x22_im_a1 1.1007493212139699e-09
Cx23_re_a1 x23_re_a1 0 1.0
Gx23_re_a1 0 x23_re_a1 p1 0 0.1414213562373095
Fx23_re_a1 0 x23_re_a1 V1 7.0710678118654755
Rp23_re_re_a1 0 x23_re_a1 3.04213900236436e-09
Gp23_re_im_a1 0 x23_re_a1 x23_im_a1 0 434220569.45866823
Cx23_im_a1 x23_im_a1 0 1.0
Gp23_im_re_a1 0 x23_im_a1 x23_re_a1 0 -434220569.45866823
Rp23_im_im_a1 0 x23_im_a1 3.04213900236436e-09
Cx24_a1 x24_a1 0 1.0
Gx24_a1 0 x24_a1 p1 0 0.07071067811865475
Fx24_a1 0 x24_a1 V1 3.5355339059327378
Rp24_a1 0 x24_a1 9.480976607097036e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0013765385095335881
Fd2_1 0 s2 V1 0.06882692547667942
Gr1_2_1 0 s2 x1_a1 0 5676073022339.672
Gr2_2_1 0 s2 x2_a1 0 -5648964363251.065
Gr3_2_1 0 s2 x3_a1 0 1679980401465.4368
Gr4_2_1 0 s2 x4_a1 0 -1691072444940.6726
Gr5_2_1 0 s2 x5_a1 0 307881877219.4998
Gr6_2_1 0 s2 x6_a1 0 -420903969314.9622
Gr7_2_1 0 s2 x7_a1 0 -3018096375349.471
Gr8_2_1 0 s2 x8_a1 0 1478729406090.6855
Gr9_2_1 0 s2 x9_a1 0 22712414751050.695
Gr10_2_1 0 s2 x10_a1 0 -34969647724055.89
Gr11_re_2_1 0 s2 x11_re_a1 0 3643301462643.852
Gr11_im_2_1 0 s2 x11_im_a1 0 3284210323274.0645
Gr12_re_2_1 0 s2 x12_re_a1 0 1037071292148.527
Gr12_im_2_1 0 s2 x12_im_a1 0 126462928251.41422
Gr13_re_2_1 0 s2 x13_re_a1 0 107104884078.90666
Gr13_im_2_1 0 s2 x13_im_a1 0 -18024202250.49857
Gr14_re_2_1 0 s2 x14_re_a1 0 933316689.7565963
Gr14_im_2_1 0 s2 x14_im_a1 0 -1551972338.2505815
Gr15_re_2_1 0 s2 x15_re_a1 0 1409639828.7150493
Gr15_im_2_1 0 s2 x15_im_a1 0 -399884227874.0202
Gr16_re_2_1 0 s2 x16_re_a1 0 -23163895717.447174
Gr16_im_2_1 0 s2 x16_im_a1 0 -45577257701.98245
Gr17_re_2_1 0 s2 x17_re_a1 0 24594.003300636647
Gr17_im_2_1 0 s2 x17_im_a1 0 -47308.19480549725
Gr18_re_2_1 0 s2 x18_re_a1 0 290707355706.555
Gr18_im_2_1 0 s2 x18_im_a1 0 -786489975546.0712
Gr19_re_2_1 0 s2 x19_re_a1 0 1467717378258.845
Gr19_im_2_1 0 s2 x19_im_a1 0 -506483070760.99316
Gr20_2_1 0 s2 x20_a1 0 774813379610.7681
Gr21_re_2_1 0 s2 x21_re_a1 0 2784321875.0846157
Gr21_im_2_1 0 s2 x21_im_a1 0 2659446792.5746694
Gr22_re_2_1 0 s2 x22_re_a1 0 -359584927.3814088
Gr22_im_2_1 0 s2 x22_im_a1 0 284772338.8585292
Gr23_re_2_1 0 s2 x23_re_a1 0 -56834669.510824874
Gr23_im_2_1 0 s2 x23_im_a1 0 18336263.834806625
Gr24_2_1 0 s2 x24_a1 0 -32316172.77550477
Gd2_2 0 s2 p2 0 0.00033541259129274994
Fd2_2 0 s2 V2 0.0167706295646375
Gr1_2_2 0 s2 x1_a2 0 1136111229618.16
Gr2_2_2 0 s2 x2_a2 0 -1134788020970.5774
Gr3_2_2 0 s2 x3_a2 0 200765183539.3717
Gr4_2_2 0 s2 x4_a2 0 -211769387204.17313
Gr5_2_2 0 s2 x5_a2 0 -92942411907.68695
Gr6_2_2 0 s2 x6_a2 0 61660236582.98137
Gr7_2_2 0 s2 x7_a2 0 -609054567169.6606
Gr8_2_2 0 s2 x8_a2 0 363113586435.39343
Gr9_2_2 0 s2 x9_a2 0 3072074504089.2935
Gr10_2_2 0 s2 x10_a2 0 -4327377376599.426
Gr11_re_2_2 0 s2 x11_re_a2 0 468333474186.5567
Gr11_im_2_2 0 s2 x11_im_a2 0 282155302118.18616
Gr12_re_2_2 0 s2 x12_re_a2 0 101936163661.82559
Gr12_im_2_2 0 s2 x12_im_a2 0 -13277801902.511892
Gr13_re_2_2 0 s2 x13_re_a2 0 8719894971.452673
Gr13_im_2_2 0 s2 x13_im_a2 0 -4160154534.4662404
Gr14_re_2_2 0 s2 x14_re_a2 0 33729182.18429087
Gr14_im_2_2 0 s2 x14_im_a2 0 -136751127.35075048
Gr15_re_2_2 0 s2 x15_re_a2 0 -7455232278.145884
Gr15_im_2_2 0 s2 x15_im_a2 0 -36215321876.685234
Gr16_re_2_2 0 s2 x16_re_a2 0 -2938959928.1601753
Gr16_im_2_2 0 s2 x16_im_a2 0 -3343381292.0699043
Gr17_re_2_2 0 s2 x17_re_a2 0 1584.0007898779704
Gr17_im_2_2 0 s2 x17_im_a2 0 -4094.958091540027
Gr18_re_2_2 0 s2 x18_re_a2 0 16255499817.445873
Gr18_im_2_2 0 s2 x18_im_a2 0 -78743635784.03831
Gr19_re_2_2 0 s2 x19_re_a2 0 142025953403.03003
Gr19_im_2_2 0 s2 x19_im_a2 0 -59314194724.90224
Gr20_2_2 0 s2 x20_a2 0 74506109182.50777
Gr21_re_2_2 0 s2 x21_re_a2 0 264765650.18633777
Gr21_im_2_2 0 s2 x21_im_a2 0 234917339.4561001
Gr22_re_2_2 0 s2 x22_re_a2 0 -32294932.995453455
Gr22_im_2_2 0 s2 x22_im_a2 0 25602262.716222245
Gr23_re_2_2 0 s2 x23_re_a2 0 -5353660.886560336
Gr23_im_2_2 0 s2 x23_im_a2 0 1440336.6725479937
Gr24_2_2 0 s2 x24_a2 0 -3314013.0602426906
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 6.747520576546205e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 6.609994891638789e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.3140246245030536e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.1869536771135577e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 6.548404065633829e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 5.892437600413135e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.8047454149768445e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.4672985515026958e-11
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.669063242047821e-11
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 4.703307402927022e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 7.117006828086341e-11
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 11946611017.674057
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -11946611017.674057
Rp11_im_im_a2 0 x11_im_a2 7.117006828086341e-11
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 1.4754533473994075e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 14238591436.876387
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -14238591436.876387
Rp12_im_im_a2 0 x12_im_a2 1.4754533473994075e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 3.8856316688028864e-10
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 14469501012.60281
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -14469501012.60281
Rp13_im_im_a2 0 x13_im_a2 3.8856316688028864e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 6.947705482669779e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 14108577268.860634
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -14108577268.860634
Rp14_im_im_a2 0 x14_im_a2 6.947705482669779e-09
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 2.3760560962553617e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 12083657492.00261
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -12083657492.00261
Rp15_im_im_a2 0 x15_im_a2 2.3760560962553617e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 5.088540713072077e-10
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 13569191644.069426
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -13569191644.069426
Rp16_im_im_a2 0 x16_im_a2 5.088540713072077e-10
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 7.99231460426701e-07
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 12579369379.54573
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -12579369379.54573
Rp17_im_im_a2 0 x17_im_a2 7.99231460426701e-07
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 1.7054796054686886e-10
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 9132673988.045652
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -9132673988.045652
Rp18_im_im_a2 0 x18_im_a2 1.7054796054686886e-10
Cx19_re_a2 x19_re_a2 0 1.0
Gx19_re_a2 0 x19_re_a2 p2 0 0.1414213562373095
Fx19_re_a2 0 x19_re_a2 V2 7.0710678118654755
Rp19_re_re_a2 0 x19_re_a2 1.4650378161915236e-10
Gp19_re_im_a2 0 x19_re_a2 x19_im_a2 0 4435567057.310095
Cx19_im_a2 x19_im_a2 0 1.0
Gp19_im_re_a2 0 x19_im_a2 x19_re_a2 0 -4435567057.310095
Rp19_im_im_a2 0 x19_im_a2 1.4650378161915236e-10
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 1.8316423638930915e-10
Cx21_re_a2 x21_re_a2 0 1.0
Gx21_re_a2 0 x21_re_a2 p2 0 0.1414213562373095
Fx21_re_a2 0 x21_re_a2 V2 7.0710678118654755
Rp21_re_re_a2 0 x21_re_a2 4.816086968238468e-10
Gp21_re_im_a2 0 x21_re_a2 x21_im_a2 0 2459757582.687943
Cx21_im_a2 x21_im_a2 0 1.0
Gp21_im_re_a2 0 x21_im_a2 x21_re_a2 0 -2459757582.687943
Rp21_im_im_a2 0 x21_im_a2 4.816086968238468e-10
Cx22_re_a2 x22_re_a2 0 1.0
Gx22_re_a2 0 x22_re_a2 p2 0 0.1414213562373095
Fx22_re_a2 0 x22_re_a2 V2 7.0710678118654755
Rp22_re_re_a2 0 x22_re_a2 1.1007493212139699e-09
Gp22_re_im_a2 0 x22_re_a2 x22_im_a2 0 997498705.2901851
Cx22_im_a2 x22_im_a2 0 1.0
Gp22_im_re_a2 0 x22_im_a2 x22_re_a2 0 -997498705.2901851
Rp22_im_im_a2 0 x22_im_a2 1.1007493212139699e-09
Cx23_re_a2 x23_re_a2 0 1.0
Gx23_re_a2 0 x23_re_a2 p2 0 0.1414213562373095
Fx23_re_a2 0 x23_re_a2 V2 7.0710678118654755
Rp23_re_re_a2 0 x23_re_a2 3.04213900236436e-09
Gp23_re_im_a2 0 x23_re_a2 x23_im_a2 0 434220569.45866823
Cx23_im_a2 x23_im_a2 0 1.0
Gp23_im_re_a2 0 x23_im_a2 x23_re_a2 0 -434220569.45866823
Rp23_im_im_a2 0 x23_im_a2 3.04213900236436e-09
Cx24_a2 x24_a2 0 1.0
Gx24_a2 0 x24_a2 p2 0 0.07071067811865475
Fx24_a2 0 x24_a2 V2 3.5355339059327378
Rp24_a2 0 x24_a2 9.480976607097036e-09
.ENDS s_equivalent
